US04128570
b. 3,3'-Diaminobenzanilide
A solution of 14.3 g of 3,3'-dinitrobenzanilide in 150 ml. of dioxane is hydrogenated at three atmospheres of hydrogen using 1 g. of 10% palladium-on-charcoal catalyst. The catalyst is removed by filtration and the filtrate evaporated to dryness. The residue is recrystallized from ethanol. There is obtained 8.72 g. of material melting at 123°-4°.

reactant | 3,3'-dinitrobenzanilide | 14.3 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C13H9N3O5
reactant | hydrogen | 1 g | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3,3'-Diaminobenzanilide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N)C=CC1 | C13H13N3O
